US06455566B1
1-(5-Chloro-2-methyl-phenyl)-3-(4-methyl-oxazol-2-yl)-thiourea
Prepared using Method A from 10.0 g (54.5 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 5.39 g (55 mmol) of 4-methyl-2-amino-oxazole to give 8.3 g of title compound as a yellow solid, m.p. 207-208° C. An additional crop (4.8 g, m.p. 207-208° C.) was obtained from the mother liquor (86% combined yield).

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 54.5 mmol, 10.0 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 4-methyl-2-amino-oxazole | 55 mmol, 5.39 g | CC=1N=C(OC1)N | C4H6N2O
product | 1-(5-Chloro-2-methyl-phenyl)-3-(4-methyl-oxazol-2-yl)-thiourea | 8.3 g | ClC=1C=CC(=C(C1)NC(=S)NC=1OC=C(N1)C)C | C12H12ClN3OS
